US07732444B2
Intermediate 46: 4-(3-Butoxy-phenyl)-2-chloro-pyrimidine:
2,4 dichloropyrimidine was coupled with 3-butoxyphenylboronic acid following procedure A. LC-MS showed the product had the expected M+H+ of 263.

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-butoxyphenylboronic acid | C(CCC)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 4-(3-Butoxy-phenyl)-2-chloro-pyrimidine | C(CCC)OC=1C=C(C=CC1)C1=NC(=NC=C1)Cl | C14H15ClN2O
